US06353006B1
2-Hydroxyethylamine was reacted with cycloheptylmethyl bromide according to Method B2a to give N-cycloheptylmethyl-N-(2-hydroxyethyl)amine. The alcohol was reacted with SOCl2 according to Method B7c to give N-cycloheptylmethyl-N-(2-chloroethyl)ammonium chloride. The chloroethylamine was reacted with 2-methyl-4-nitrophenyl isothiocyanate to give 2-(2-methyl-4-nitrophenylimino)-3-(cycloheptylmethyl)-1,3-thiazolidine.

reactant | 2-Hydroxyethylamine | OCCN | C2H7NO
reactant | cycloheptylmethyl bromide | C1(CCCCCC1)CBr | C8H15Br
product | N-cycloheptylmethyl-N-(2-hydroxyethyl)amine | C1(CCCCCC1)CNCCO | C10H21NO
